US04310540
6.09 g (0.035 mol) of 2-difluoromethoxybenzyl alcohol and 3.5 g (0.035 mol) of triethylamine were dissolved in 50 ml of toluene and the solution was added dropwise to a mixture of 7.95 g (0.35 mol) of 2,2-dimethyl-3-(2',2'-dichloro-vinyl)-cyclopropanecarboxylic acid chloride in 100 ml of toluene at 20°-25° C. The reaction mixture was subsequently stirred at room temperature for 3 hours and poured into 150 ml of water, the toluene phase was filtered off, washed with 100 ml of water and dried with sodium sulphate and the toluene was distilled off in vacuo. Last residues of solvent were removed by incipient distillation at a bath temperature of 60° C./0.2 to 1.0 mm Hg. 10.9 g (81% of theory) of 2-difluoromethoxybenzyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylate were obtained as a viscous oil with the refractive index nD20 =1.5190.

reactant | 2-difluoromethoxybenzyl alcohol | 0.035 mol, 6.09 g | FC(OC1=C(CO)C=CC=C1)F | C8H8F2O2
reactant | triethylamine | 0.035 mol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-3-(2',2'-dichloro-vinyl)-cyclopropanecarboxylic acid chloride | 0.35 mol, 7.95 g | CC1(C(C1C=C(Cl)Cl)C(=O)Cl)C | C8H9Cl3O
reactant | water | 150 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-difluoromethoxybenzyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylate | 10.9 g, 81% | CC1(C(C1C=C(Cl)Cl)C(=O)OCC1=C(C=CC=C1)OC(F)F)C | C16H16Cl2F2O3
